US06313126B1
6-Methoxy-8-piperazin-1-yl-[1,7]naphthyridine
A solution of 6-methoxy-[1,7]naphthyridin-8-ylamine (2.25 g, 12.8 mmol), bis(2-chloroethyl)-benzlyamine (10.25 g, 38.6 mmol) and Et3N (5.34 mL, 38.6 mmol) in BuOH (100 mL) was heated at 100° C. for 72 hours. The cooled reaction mixture was poured into H2O (100 mL) and 2.5 N NaOH (100 mL), and extracted into EtOAc (2×200 mL). The organic phases were combined, dried over NASO4, filtered and concentrated. The resulting oil was purified twice by column chromatography (10% MeOH/CH2Cl2) affording a dark gold oil with BuOH impurity. This oil was dissolved in EtOH (50 mL) and 10% Pd/C (390 mg) and ammonium formate (730 mg) was added. The reaction mixture was heated at 80° C. for 2.5 hours. The cooled reaction mixture was filtered through a pad of celite and washed with EtOAc (50 mL). The organic phase was concentrated and purified by column chromatography (10% MeOH/CH2Cl2+NH4OH) affording 270 mg of the title compound as a dark orange oil. An analytical sample was prepared as the HCl salt from EtOAc.

reactant | 6-methoxy-[1,7]naphthyridin-8-ylamine | 12.8 mmol, 2.25 g | COC=1C=C2C=CC=NC2=C(N1)N | C9H9N3O
reactant | Et3N | 38.6 mmol, 5.34 mL | CCN(CC)CC | C6H15N
reactant | NaOH | 2.5 N, 100 mL | [OH-].[Na+]
reactant | ammonium formate | 730 mg | C(=O)[O-].[NH4+]
solvent | BuOH | 100 mL | C(CCC)O | C4H10O
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 390 mg | [Pd] | Pd
solvent | H2O | 100 mL | O | H2O
product | 6-Methoxy-8-piperazin-1-yl-[1,7]naphthyridine | 270 mg | COC=1C=C2C=CC=NC2=C(N1)N1CCNCC1 | C13H16N4O
